US05756532
2-(4-Fluoro-benzylamino)-methyl-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]-indol-8-one
(R)-2-(Toluene-4-sulfonyloxymethyl)-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one (1.15 g, 3.07 mmole) and 4-fluorobenzylamine (1.56 ml, 13.6 mmole) were combined in 15 ml of dry DMSO and heated to 85° C. for 3.5 hours under a nitrogen atmosphere. After cooling to room temperature, 150 ml of water was added and the mixture was extracted twice with 250 ml portions of 50% ethyl acetate in hexane. The combined organic phases were washed with brine, dried over MgSO4, filtered and concentrated in vacuum to yield an oil, which was column chromatographed on silica gel using 0.75% methanol/CH2Cl2 as eluant. The free base of the title compound (0.62 g, 62%) thus obtained was crystallized from ethanol with the addition of one equivalent of fumaric acid to give 0.69 g of the (S) enantiomer of the title compound as an off-white solid fumarate, m.p. 218°-220° C.

reactant | (R)-2-(Toluene-4-sulfonyloxymethyl)-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | 3.07 mmole, 1.15 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3CC(NC3=CC2)=O)O1)C | C18H17NO6S
reactant | 4-fluorobenzylamine | 13.6 mmole, 1.56 ml | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | water | 150 ml | O | H2O
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 2-(4-Fluoro-benzylamino)-methyl-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]-indol-8-one | 0.62 g, 62% | FC1=CC=C(CNC2(COC=3C(=C4CC(NC4=CC3)=O)O2)C)C=C1 | C18H17FN2O3
